US06281227B1
H. 2-[3-(S)-(5′-Chloro-[2,2′]bithiophenyl-5-sulfonylamino)-2-oxo-pyrrolidin-1-ylmethyl]pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester
The title compound is prepared as described in EXAMPLE 56, Part A using 5′-chloro-[2,2′]bithiophenyl-5-sulfonyl chloride and 2-[3-(S)-amino-2-oxo-pyrrolidin-1-ylmethyl)-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester as starting material. The crude product can be purified by column chromatography eluting with 5% MeOH/CH2Cl2 to give the title compound as a white solid or used in the subsequent step after an aqueous work-up without further purification.

reactant | 5′-chloro-[2,2′]bithiophenyl-5-sulfonyl chloride | ClC1=CC=C(S1)C=1SC(=CC1)S(=O)(=O)Cl | C8H4Cl2O2S3
reactant | 2-[3-(S)-amino-2-oxo-pyrrolidin-1-ylmethyl)-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)CN2C([C@H](CC2)N)=O | C17H22N4O3
product | 2-[3-(S)-(5′-Chloro-[2,2′]bithiophenyl-5-sulfonylamino)-2-oxo-pyrrolidin-1-ylmethyl]pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)CN2C([C@H](CC2)NS(=O)(=O)C2=CC=C(S2)C=2SC(=CC2)Cl)=O | C25H25ClN4O5S3
